US05015640
starting from propyl 5,7-dihydro-6H-dibenz[c,e]-azepine-6-carboximidate and p-fluorobenzoyl chloride, there is obtained propyl N-(p-fluorobenzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a solid, mass spectrum m/e: M+ 402 (5), 359 (14), 194 (100), 123 (51);

reactant | propyl 5,7-dihydro-6H-dibenz[c,e]-azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCCC)=N | C18H20N2O
reactant | p-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | propyl N-(p-fluorobenzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | FC1=CC=C(C(=O)N=C(OCCC)N2CC3=C(C4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C25H23FN2O2
